US05534188
In the same manner as above, 0.92 g (yield 98.5%) of 2-(4-(6-acetoxy-1-heptyl)phenyl)-5-decyloxypyrimidine, [α]D20 =-1.2° (c=1, chloroform), is obtained from 0.93 g of optically active 2-(4-(6-acetoxy-1-heptynyl)phenyl)-5-decyloxypyrimidine.

reactant | 2-(4-(6-acetoxy-1-heptynyl)phenyl)-5-decyloxypyrimidine | C(C)(=O)OC(CCCC#CC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C | C29H40N2O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-(6-acetoxy-1-heptyl)phenyl)-5-decyloxypyrimidine | 0.92 g, yield 98.5% | C(C)(=O)OC(CCCCCC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C | C29H44N2O3
